US09255093B2
To a solution of 6-methylbenzofuran-2-carboxylic acid (11 g, 62.4 mmol) in 468 mL of toluene and 156 mL of MeOH was added 2N TMS-CHN2 (46.8 mL, 94 mmol) dropwise at room temperature. The reaction was stirred at room temperature for 6 hr. The reaction was then quenched by addition of acetic acid dropwise at 0° C. until the yellow color vanished, and gas evolution ceased. The reaction was concentrated under reduced pressure, and the residue was purified by silica gel flash chromatography, 100% Heptane-10% Ethyl Acetate/90% Heptane, to give methyl 6-methylbenzofuran-2-carboxylate (7.96 g). 1H NMR (400 MHz, DMSO-d6) δ 2.46 (s, 3H), 3.88 (s, 3H), 7.20 (dd, J=8.3, 1.0 Hz, 1H), 7.53 (s, 1H), 7.67 (d, J=8.1 Hz, 1H), 7.71 (d, J=1.0 Hz, 1H).

reactant | 6-methylbenzofuran-2-carboxylic acid | 62.4 mmol, 11 g | CC1=CC2=C(C=C(O2)C(=O)O)C=C1 | C10H8O3
reactant | TMS-CHN2 | 94 mmol, 2N, 46.8 mL | [Si](C)(C)(C)C=[N+]=[N-] | C4H10N2Si
solvent | toluene | 468 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | 156 mL | CO | CH4O
product | methyl 6-methylbenzofuran-2-carboxylate | 7.96 g | CC1=CC2=C(C=C(O2)C(=O)OC)C=C1 | C11H10O3
